US07935688B2
(1) Synthesis of 4-{4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenylethynyl}-tetrahydro-pyran-4-ol
n-Butyllithium (2.71 M solution in hexane, 3.15 mL, 8.55 mmol) was added to a solution of 4-[1-ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-phenol (Example 1-(3); 1.0 g, 3.42 mmol) in tetrahydrofuran (30 mL) in a nitrogen atmosphere at 0° C., and the mixture was stirred for 15 minutes. Then, tetrahydropyran-4-one (685 mg, 6.84 mmol) was added to the reaction mixture, which was further stirred at 0° C. for 30 minutes. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, followed by extraction with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=100:0 to 30:70) to give the target compound as a colorless oil (0.97 g, 72%).

reactant | n-Butyllithium | 8.55 mmol, 2.71 M, 3.15 mL | C(CCC)[Li]
reactant | 4-[1-ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-phenol | 3.42 mmol, 1.0 g | C(C)C(CC)(C1=CC(=C(C=C1)C#C)C)C1=CC(=C(C=C1)O)C | C21H24O
reactant | tetrahydropyran-4-one | 6.84 mmol, 685 mg | O1CCC(CC1)=O | C5H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-{4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenylethynyl}-tetrahydro-pyran-4-ol | 0.97 g, 72% | C(C)C(CC)(C1=CC(=C(C=C1)O)C)C1=CC(=C(C=C1)C#CC1(CCOCC1)O)C | C26H32O3
